US05068325
8d) 2-Amino-6-(3-(4-fluoro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 4-fluoro-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 13% of theory, Melting point: 142°-146° C.

reactant | 4-fluoro-cinnamyl chloride | FC1=CC=C(C=CCCl)C=C1 | C9H8ClF
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(4-fluoro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 13% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)F | C16H18FN3S
